US05693668
3-Trimethylsilylbenzylbromide
A mixture of 3-trimethylsilyltoluene (3.28 g, 10 mmol), N-bromosuccinimide (1.78 g, 10 mmol) and benzoylperoxide (10 mg) in CCl4 (20 ml) was stirred under reflux for 3 hours, then cooled and filtered. The solvent was removed under reduced pressure and 3-trimethylsilylbenzylbromide was purified by distillation.

reactant | 3-trimethylsilyltoluene | 10 mmol, 3.28 g | C[Si](C=1C=C(C=CC1)C)(C)C | C10H16Si
reactant | N-bromosuccinimide | 10 mmol, 1.78 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoylperoxide | 10 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-Trimethylsilylbenzylbromide | C[Si](C=1C=C(CBr)C=CC1)(C)C | C10H15BrSi
